US20010020100A1
To 95 mL of-2 M (0.190 mol) butylmagnesium chloride in tetrahydrofuran and 55 mL of anhydrous ether at about −60° C. (chloroform-dry ice) was added dropwise 24.4 g (0.162 mol) of ethoxycarbonyl isothiocyanate in 205 mL of anhydrous ether over a period of 2 h. The resulting mixture was stirred cold for about 3 h and allowed to slowly warm to room temperature. The solvent was decanted and the solid was washed with four 50 mL-portions of ether. The solid was partitioned between 200 mL of ether and 200 mL of saturated ammonium chloride. The aqueous layer was extracted with two 50 mL-portions of ether and the combined extracts were dried (MgSO4) and concentrated in vacuo. The red oily residue was distilled under reduced pressure to give 18 g (58%) of N-ethoxycarbonyl thiovaleramide as a yellow oil: bp 86° C./ 1.5 torr; 1H NMR (CDCl3) δ 0.90 (t, J=7.5 Hz, 3H), 1.20-1.5 (m, 5H), 1.65 -1.8 (m, 2H), 3.20 (t, J= 7.5 Hz, 2H), 4.2 (q, J=7.2 Hz, 2H), 9.2 (broad s, 1H).

reactant | butylmagnesium chloride | 0.190 mol, 2 M | C(CCC)[Mg]Cl
reactant | chloroform dry ice | C(Cl)(Cl)Cl.C(=O)=O
reactant | ethoxycarbonyl isothiocyanate | 0.162 mol, 24.4 g | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 55 mL | CCOCC | C4H10O
solvent | ether | 205 mL | CCOCC | C4H10O
product | N-ethoxycarbonyl thiovaleramide | 18 g, 58% | C(C)OC(=O)NC(CCCC)=S | C8H15NO2S
